US07754744B2
3,5-Diethoxy-benzaldehyde [CAS RN 120355-79-5]
The title compound was prepared analogously to 3-ethoxy-4-methyl-benzaldehyde (intermediate E10, vide infra) by reaction of 3,5-dihydroxybenzaldehyde with ethyl iodide in DMF using K2CO3 as base.

reactant | 3-ethoxy-4-methyl-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1C | C10H12O2
reactant | 3,5-dihydroxybenzaldehyde | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | ethyl iodide | C(C)I | C2H5I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,5-Diethoxy-benzaldehyde | C(C)OC=1C=C(C=O)C=C(C1)OCC | C11H14O3
